US07288544B2
Synthesis of 4-(2,4-dimethylphenyl)-2,6-dimethyl-5-(4-methylpiperazine-1-carbonyl)nicotinic acid (3,3-diphenylpropyl) ester
169 mg (0.301 mmol) of 4-(2,4-dimethylphenyl)-2,6-dimethyl-5-(piperazine-1-carbonyl)nicotinic acid (3,3-diphenylpropyl) ester was dissolved in 10 ml of DMF. 62.4 mg (01.301 mmol) of potassium carbonate was added and stirred for 30 minutes. 51.3 mg (0.361 mmol) of methyl iodide was added under cooling with ice and stirred at the same temperature for 1 hour. The reaction mixture was further stirred for 10 minutes after adding water. After evaporating DMF under reduced pressure, the reaction mixture was diluted with ethyl acetate and washed with saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (dichloromethane/methanol=50/1 to 10/1) to obtain the title compound.

reactant | 4-(2,4-dimethylphenyl)-2,6-dimethyl-5-(piperazine-1-carbonyl)nicotinic acid (3,3-diphenylpropyl) ester | 0.301 mmol, 169 mg | C1(=CC=CC=C1)C(CCOC(C1=C(N=C(C(=C1C1=C(C=C(C=C1)C)C)C(=O)N1CCNCC1)C)C)=O)C1=CC=CC=C1 | C36H39N3O3
reactant | potassium carbonate | 62.4 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.361 mmol, 51.3 mg | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(2,4-dimethylphenyl)-2,6-dimethyl-5-(4-methylpiperazine-1-carbonyl)nicotinic acid (3,3-diphenylpropyl) ester | C1(=CC=CC=C1)C(CCOC(C1=C(N=C(C(=C1C1=C(C=C(C=C1)C)C)C(=O)N1CCN(CC1)C)C)C)=O)C1=CC=CC=C1 | C37H41N3O3
